* OVERALL BEST CANDIDATE: 00_Phase_2_80V_to_9V_Specialized_Buck_g2_cand1_b9
* FITNESS SCORE: 0.7241
*
* Generated: 2026-06-01T01:17:15
* Constraint: Phase 2: 80V to 9V Specialized (Buck)
*   vin_min = 70
*   vin_max = 90
*   vout_target = 9
*   efficiency_target = 0.86
*   power_in = 80
* Candidate: 5 of 8
* Grouped name: g2_cand1
*
* 70V to 9V D=100m, Rload=900m
Vin in 0 70
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 47u
C1 out 0 220u
Rload out 0 900m
Vgate gate 0 PULSE(0 12 0 1n 1n 10u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
