* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_3
* Fitness: 0.9757
*
* --- Active Constraints ---
* _comment: Phase 2: 80V to 9V Specialized (Buck)
* vin_min: 70
* vin_max: 90
* vout_target: 9
* efficiency_target: 0.86
* power_in: 80
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 7.151743
* efficiency: 0.880556
* total_volume_cm3: 42.867351
* total_components: 4
* ============================

* 70V to 9V Buck, 80W
Vin in 0 70
M1 in gate sw sw NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 47u
C1 out 0 220u
Rload out 0 0.278
Vgate gate sw PULSE(0 12 0 1n 1n 1.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end